US07964618B2
Prepared in a similar manner to that described above by reacting ethyl 2-pyridin-3-ylacetate with 1,3-dibromopropane to give ethyl 1-pyridin-3-ylcyclobutane-1-carboxylate which was then hydrogenated to give the desired compound as a brown oil (quantitative reaction).

reactant | ethyl 2-pyridin-3-ylacetate | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | ethyl 1-pyridin-3-ylcyclobutane-1-carboxylate | N1=CC(=CC=C1)C1(CCC1)C(=O)OCC | C12H15NO2
